US04248885
29.3 g of 8-amino-1,4-benzodioxane-5-carboxylic acid, 120 ml of water and 30 ml of hydrochloric acid were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was heated to 40° C. and then cooled to 5° C. and a solution of 10.5 g of sodium nitrate in 20 ml of water was added in portions with the temperature being maintained at from 5°-10° C. The mixture was agitated and then poured into a solution of 12 g of cuprous chloride in 45 ml of hydrochloric acid (d=1.18) with the temperature being maintained below 30° C. The precipitate was dried off, washed in 300 ml of water and 25 g of sodium bicarbonate. The solution was filtered and treated with hydrochloric acid. The precipitate was dried off, washed with water and dried. 20 g of 8-chloro-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 195° C.; yield 62%).

reactant | 8-amino-1,4-benzodioxane-5-carboxylic acid | 29.3 g | NC1=CC=C(C2=C1OCCO2)C(=O)O | C9H9NO4
reactant | sodium nitrate | 10.5 g | [N+](=O)([O-])[O-].[Na+]
reactant | hydrochloric acid | 45 ml | Cl | ClH
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | water | 120 ml | O | H2O
product | 8-chloro-1,4-benzodioxane-5-carboxylic acid | 20 g, yield 62% | ClC1=CC=C(C2=C1OCCO2)C(=O)O | C9H7ClO4
